2129-01-16 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2129-1-15**] 07:22 PM
          received a total of 2L of NS boluses
          remains on levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-15**] 08:56 PM
   Piperacillin - [**2129-1-15**] 11:19 PM
   Vancomycin - [**2129-1-16**] 12:27 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2129-1-15**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2129-1-15**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-16**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 98 (86 - 109) bpm
   BP: 85/55(61) {82/44(57) - 128/75(88)} mmHg
   RR: 10 (6 - 17) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,423 mL
                                                                  1,323 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,303 mL
                                                                  1,323 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,423 mL
                                                                  1,323 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   432 K/uL
   10.6 g/dL
   85 mg/dL
   11.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   54 mg/dL
   101 mEq/L
   135 mEq/L
   33.3 %
   17.6 K/uL
        [image002.jpg]
                             [**2129-1-15**]  09:44 PM
                             [**2129-1-16**]  04:57 AM
   WBC
   19.3
   17.6
   Hct
   34.5
   33.3
   Plt
   421
   432
   Cr
   11.4
   TropT
   0.12
   Glucose
   93
   85
   Other labs: PT / PTT / INR:65.5/60.4/7.9, CK / CKMB /
   Troponin-T:746/18/0.12, ALT / AST:[**6-10**], Alk Phos / T Bili:168/0.2,
   Differential-Neuts:87.7 %, Lymph:6.8 %, Mono:4.4 %, Eos:0.6 %, LDH:388
   IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   56F with sepsis
   Sepsis: Likely due to Cdiff in setting of recent infection although on
   treatment, abdominal pain, leuckocytosis, hypotension & imaging
   suggestive of such.  Other considerations include a peritoneal
   infection.  This does not appear to be of pulmonary origin.  This is
   likely due to Cdiff rather than peritonitis, although will continue
   broad spectrum abx until cultures are negative after 48 hours.  First
   set of abx that should be pulled off are IV Vanc and Zosyn which are
   being used to treat empirically for peritonitis.
   - Continue PO Vanc and IV Flagyl for C diff
   - Continue IV Zosyn/IV Vanc
   - BCx pending
   - Attempt peritoneal culture
   - Cultures to be drawn from peritoneal catheter
   - Patient anuric thus can't measure UO as a measure of fluid status
   - Will bolus gently with NS to attempt pressor wean given ESRD.  Will
   monitor oxygen saturation.
   - CVP can't be measured off fem line
   Colitis/Peritonitis: this is the patients 4th infection since [**Month (only) 1088**]
   [**2127**].  She appears to be refractory to current therapy and may need
   prolonged PO Vanc taper
   - PO vanc, IV flagyl, IV Zosyn as above
   - Sacchromyces at outpatient dose
   - NPO except meds
   Altered Mental Status: Patient delirious this morning, a change from
   admission.  Etiologies include underlying infection, ICH in setting of
   supratherapeutic INR, hypercarbia, ICU delirium from not sleeping.  I
   favor the latter given that her admission Head CT was negative,
   although this doesn
t definitively rule out a head  bleed, but there
   has been no trauma.  She was on BiPaP overnight, which should keep her
   from getting hypercarbic.
   - Will follow and start with ABG if she does not clear
   - Head CT if patient does not clear within 24 hours
   ESRD on PD: last HD on Wednesday, generally gets it daily. Patient
   clinically volume overloaded
   - gentle PD once patient off pressors
   SOB: likely due to volume overload given physical exam and CXR.
   Currently satting ok
   - PD when stable
   CV: Not suggestive ACS at this point.
   CAD: not on ASA, statin, BB. Repeat EKG on arrival. Cycle enzymes.
   PUMP: EF55%.  Hx of hypertension although not on medications and
   currently hypotensive requiring pressors.  Will bolus with NS as needed
   for pressure and attempt to wean pressors as tolerated. Not on
   antihypertensives as an outpatient.
   RHYTHM: tachycardic, may be due to decreased intravascular volume,
   infection or pulmonary edema.
   SVC Syndrome: hold warfarin given supratherapeutic INR
   - Vitamin K
   - FFP  prior to procedures
   OSA: BiPap at night
   ICU Care
   Nutrition: NPO
   Glycemic Control:  IRSS
   Lines:
   Multi Lumen - [**2129-1-15**] 07:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: presumed FULL
   Disposition: ICU

2129-01-16 09:10:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   56 h/o ESRD on PD, SVC syndrome, recurrent C.Diff colitis, just
   discharged [**1-11**] on abx, readmitted with abd pain and increased
   diarrhea. Hypotensive in the ED, requiring Levophed.
   24 Hour Events:
   Treated with po vanc, IV Flagyl for C.Diff and , IV Vanc/Zosyn to cover
   for peritoneal infection and other infectious colitis.
   Remained on Levophed. bolused 2L of NS (had received 2L in  ED).
   No BMs since last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-15**] 08:56 PM
   Piperacillin - [**2129-1-15**] 11:19 PM
   Vancomycin - [**2129-1-16**] 12:27 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2129-1-15**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2129-1-15**] 10:17 PM
   Other medications:
   Neurontin, Sevalemer, Cinacalcet, Celexa,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-16**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 98 (86 - 109) bpm
   BP: 85/55(61) {82/44(57) - 128/75(88)} mmHg
   RR: 10 (6 - 17) insp/min
   SpO2: 99% 2L
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,423 mL
                                                                  1,340 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,303 mL
                                                                  1,340 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,423 mL
                                                                  1,340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, scant BS
   Extremities: Right: Trace, Left: Trace, 2+ UE edema R>L
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): place, date,
   not year, Movement: Not assessed, Tone: Not assessed, confused
   Labs / Radiology
   10.6 g/dL
   432 K/uL
   85 mg/dL
   11.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   54 mg/dL
   101 mEq/L
   135 mEq/L
   33.3 %
   17.6 K/uL
        [image002.jpg]
                             [**2129-1-15**]  09:44 PM
                             [**2129-1-16**]  04:57 AM
   WBC
   19.3
   17.6
   Hct
   34.5
   33.3
   Plt
   421
   432
   Cr
   11.4
   TropT
   0.12
   Glucose
   93
   85
   Other labs: PT / PTT / INR:65.5/60.4/7.9, CK / CKMB /
   Troponin-T:746/18/0.12, ALT / AST:[**6-10**], Alk Phos / T Bili:168/0.2,
   Differential-Neuts:87.7 %, Lymph:6.8 %, Mono:4.4 %, Eos:0.6 %, LDH:388
   IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:7.4 mg/dL
   Fluid analysis / Other labs: Vanc level 40
   Imaging: CXR- wide mstinum, stable, plate atelectasis, o/w clear
   Assessment and Plan
   56 [**Last Name (un) 5343**] admitted with sepsis.
   1)CV/ID- septic shock, possible sources: C.Diff, peritonitis, other
   infectious colitis.
   -would bolus again with NS  and see if BP effect.
   -will consider a-line if not improving but given high INR will hold off
   for now.
   -transduce femoral CVP
   -stool cultures and C.Diff
   -get peritoneal culture
   -would like to switch to IP vanc and stop Zosyn if no other positive
   culture data in 48 hours.
   2)Renal- needs peritoneal dialysis, contact renal today.
   3)Neuro- confused this morning, likely delirium due to ICU/infection,
   will follow/reorient.
   4)Pulm- h/o OSA, may need NIPPV at night, will follow
   5)Heme- elevated INR, holding Coumadin, will give Vit K.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-15**] 07:22 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: start PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition :ICU
   Total time spent: 30 min

2129-01-17 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PD cultures sent
   - continue to hold coumadin
   - received 1 mg IV Vit K
   - CXR concerning for Right lung PNA
   - Cardiology fellow did TTE given concern for possible tamponade
   physiology, but TTE did not show any significant pericardial effusion.
   Hyperdynamic left ventricle.
   - Patient has been receiving 500 ml NS boluses
   - Gabapentin held per renal recommendation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2129-1-16**] 02:00 PM
   Metronidazole - [**2129-1-16**] 08:34 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-1-16**] 10:00 PM
   Vancomycin - [**2129-1-17**] 06:16 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2129-1-17**] 01:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-17**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 95 (92 - 123) bpm
   BP: 97/54(69) {76/24(40) - 116/78(86)} mmHg
   RR: 16 (5 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,699 mL
                                                                    340 mL
   PO:
             TF:
   IVF:
                                                                  3,699 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,699 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   438 K/uL
   9.9 g/dL
   137 mg/dL
   11.3 mg/dL
   18 mEq/L
   4.4 mEq/L
   55 mg/dL
   101 mEq/L
   134 mEq/L
   32.6 %
   19.4 K/uL
        [image002.jpg]
                             [**2129-1-15**]  09:44 PM
                             [**2129-1-16**]  04:57 AM
                             [**2129-1-17**]  03:11 AM
   WBC
   19.3
   17.6
   19.4
   Hct
   34.5
   33.3
   32.6
   Plt
   421
   432
   438
   Cr
   11.4
   11.3
   TropT
   0.12
   Glucose
   93
   85
   137
   Other labs: PT / PTT / INR:32.1/49.3/3.3, CK / CKMB /
   Troponin-T:746/18/0.12, ALT / AST:[**6-10**], Alk Phos / T Bili:168/0.2,
   Differential-Neuts:87.7 %, Lymph:6.8 %, Mono:4.4 %, Eos:0.6 %, Lactic
   Acid:1.0 mmol/L, LDH:388 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:8.4
   mg/dL
   Assessment and Plan
   56F with sepsis
   # Sepsis:  Likely due to Cdiff in setting of recent infection although
   on treatment, abdominal pain, leuckocytosis, hypotension & imaging
   suggestive of such.  Other considerations include a peritoneal
   infection.  This does not appear to be of pulmonary origin.  This is
   likely due to Cdiff rather than peritonitis, although will continue
   broad spectrum abx until cultures are negative after 48 hours.  First
   set of abx that should be pulled off are IV Vanc and Zosyn which are
   being used to treat empirically for peritonitis.
   - Continue PO Vanc and IV Flagyl for C diff
   - Continue IV Zosyn/IV Vanc
   - BCx pending
   - Attempt peritoneal culture
   - Cultures to be drawn from peritoneal catheter
   - Patient anuric thus can't measure UO as a measure of fluid status
   - Will bolus gently with NS to attempt pressor wean given ESRD.  Will
   monitor oxygen saturation.
   - CVP can't be measured off fem line
   # Colitis/Peritonitis: this is the patients 4th infection since
   [**2127-12-26**].  She appears to be refractory to current therapy and may
   need prolonged PO Vanc taper
   - PO vanc, IV flagyl, IV Zosyn as above
   - Sacchromyces at outpatient dose
   - NPO except meds
   # Altered Mental Status: Patient delirious this morning, a change from
   admission.  Etiologies include underlying infection, ICH in setting of
   supratherapeutic INR, hypercarbia, ICU delirium from not sleeping.  I
   favor the latter given that her admission Head CT was negative,
   although this doesn
t definitively rule out a head  bleed, but there
   has been no trauma.  She was on BiPaP overnight, which should keep her
   from getting hypercarbic.
   - Will follow and start with ABG if she does not clear
   - Head CT if patient does not clear within 24 hours
   # ESRD on PD: last HD on Wednesday, generally gets it daily. Patient
   clinically volume overloaded
   - gentle PD once patient off pressors
   # SOB: likely due to volume overload given physical exam and CXR.
   Currently satting ok
   - PD when stable
   # CV: Not suggestive ACS at this point.
   CAD: not on ASA, statin, BB. Repeat EKG on arrival. Cycle enzymes.
   PUMP: EF55%.  Hx of hypertension although not on medications and
   currently hypotensive requiring pressors.  Will bolus with NS as needed
   for pressure and attempt to wean pressors as tolerated. Not on
   antihypertensives as an outpatient.
   RHYTHM: tachycardic, may be due to decreased intravascular volume,
   infection or pulmonary edema.
   # SVC Syndrome: hold warfarin given supratherapeutic INR
   - Vitamin K
   - FFP  prior to procedures
   # OSA: BiPap at night
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-15**] 07:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-01-17 09:52:00 Physician Attending Progress Note
Chief Complaint: cdiff diarrhea, colitis, sepsis, hypoglycemia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2129-1-16**] 01:00 PM c-diff
 TRANSTHORACIC ECHO - At [**2129-1-16**] 08:33 PM: no tamponade
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2129-1-16**] 02:00 PM
   Vancomycin - [**2129-1-17**] 06:16 AM
   Metronidazole - [**2129-1-17**] 07:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-1-17**] 08:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2129-1-17**] 01:09 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-17**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 103 (92 - 123) bpm
   BP: 93/58(67) {80/24(40) - 116/78(86)} mmHg
   RR: 6 (5 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,699 mL
                                                                    541 mL
   PO:
             TF:
   IVF:
                                                                  3,699 mL
                                                                    441 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,699 mL
                                                                    541 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100% on Bipap 12/10
   ABG: ///18/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, thick cord like neck veins
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all poor but present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, + BS
   Extremities: Right: 2+, Left: 2+, 2+ UE edema R>L
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): place, year,
   not date, confused
   Labs / Radiology
   9.9 g/dL
   438 K/uL
   137 mg/dL
   11.3 mg/dL
   18 mEq/L
   4.4 mEq/L
   55 mg/dL
   101 mEq/L
   134 mEq/L
   32.6 %
   19.4 K/uL
        [image002.jpg]
                             [**2129-1-15**]  09:44 PM
                             [**2129-1-16**]  04:57 AM
                             [**2129-1-17**]  03:11 AM
   WBC
   19.3
   17.6
   19.4
   Hct
   34.5
   33.3
   32.6
   Plt
   421
   432
   438
   Cr
   11.4
   11.3
   TropT
   0.12
   Glucose
   93
   85
   137
   Other labs: PT / PTT / INR:32.1/49.3/3.3, CK / CKMB /
   Troponin-T:746/18/0.12, ALT / AST:[**6-10**], Alk Phos / T Bili:168/0.2,
   Differential-Neuts:87.7 %, Lymph:6.8 %, Mono:4.4 %, Eos:0.6 %, Lactic
   Acid:1.0 mmol/L, LDH:388 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:8.4
   mg/dL
   Fluid analysis / Other labs: PD WBC: 75
   Vanc : 40
   Microbiology: PD cx: pend
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O OBSTRUCTIVE SLEEP APNEA (OSA)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   56 [**Last Name (un) 5343**] admitted with ESRD on PD, colitis, recurrent cdiff colitis,
   sepsis, ? peritonitis, SVC syndrome on anticoagulation. Also has hx of
   severe OSA on BiPAP.
   Shock: likely sepsis on pressors, partly fluid-responsive
   Source: colitis, hx of recurrent cdiff, RLL pneumonia (increasing RLL
   infiltrate), peritonitis
   Abx: Vanc, Zosyn, iv flagyl, po vanc
   Will consider adding double coverage for pneumonia.
   ? adrenal insufficiency
-> cortisol 20, will [**First Name8 (NamePattern2) **] [**Last Name (un) 45**]-stim
   ? immunoglobulin deficiency
 [**Doctor Last Name 1872**] Ig levels not low (IgA slightly
   elevated 523)
   follow pancxs (stool, blood, PD)
   Altered mental status: sepsis, uremia, CT head neg, ?hypercapnia.
   Consider LP is all else negative
   ESRD on PD: PD today
   OSA: Continue NIPPV
   Card: Check TTE
   Anticoagulation: stop sq heparin since therapeutic, start coumadin once
   more stable
   Rest per resident note
   ICU Care
   Nutrition: [**Last Name (un) **] except meds
   Lines: Multi Lumen - [**2129-1-15**] 07:22 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   Communication:  Comments: find [**Name (NI) 3840**] (cousin)
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-01-18 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Received PD - fluid even
   - sc heparin d/c'd
   - family updated, ICU consent signed
   - IgG levels ok
   - levofloxacin added for double pseudomonas coverage
   - intubated [**12-27**] respiratory failure, worsening mental status
   - acidosis improved on vent
   - TTE - nl LV
   - Random cortisol 20.3, [**Last Name (un) 45**] stim ordered for AM
   - had ? angioedema vs. gingival hyperplasia noted during intubation -
   needs to be sitting up and have a good cuff prior to extubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-17**] 06:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-1-17**] 08:00 AM
   Metronidazole - [**2129-1-17**] 08:00 PM
   Levofloxacin - [**2129-1-18**] 03:00 AM
   Piperacillin - [**2129-1-18**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-18**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 86 (73 - 106) bpm
   BP: 100/66(79) {94/65(-2) - 136/90(109)} mmHg
   RR: 14 (0 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 16 (16 - 29)mmHg
   Total In:
                                                                  1,599 mL
                                                                    492 mL
   PO:
   TF:
   IVF:
                                                                  1,409 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                 -1,600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,199 mL
                                                                    492 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.32/38/122/20/-5
   Ve: 6.9 L/min
   PaO2 / FiO2: 305
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   407 K/uL
   9.3 g/dL
   108 mg/dL
   10.7 mg/dL
   20 mEq/L
   3.3 mEq/L
   53 mg/dL
   101 mEq/L
   134 mEq/L
   29.3 %
   12.2 K/uL
        [image002.jpg]
                             [**2129-1-15**]  09:44 PM
                             [**2129-1-16**]  04:57 AM
                             [**2129-1-17**]  03:11 AM
                             [**2129-1-17**]  05:27 PM
                             [**2129-1-17**]  05:46 PM
                             [**2129-1-17**]  06:08 PM
                             [**2129-1-17**]  08:55 PM
                             [**2129-1-18**]  02:42 AM
                             [**2129-1-18**]  03:04 AM
   WBC
   19.3
   17.6
   19.4
   12.2
   Hct
   34.5
   33.3
   32.6
   29.3
   Plt
   421
   432
   438
   407
   Cr
   11.4
   11.3
   10.7
   TropT
   0.12
   TCO2
   20
   21
   21
   20
   20
   Glucose
   93
   85
   137
   117
   108
   Other labs: PT / PTT / INR:33.4/46.0/3.5, CK / CKMB /
   Troponin-T:746/18/0.12, ALT / AST:[**6-10**], Alk Phos / T Bili:168/0.2,
   Differential-Neuts:87.7 %, Lymph:6.8 %, Mono:4.4 %, Eos:0.6 %, Lactic
   Acid:1.3 mmol/L, LDH:388 IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:6.2
   mg/Dl
   IgG 1171
   IgA 523
   IgM 81
   Random cortisol: 12.3
   Vancomycin level 30.8
   MICRO DATA:
[**2129-1-17**] 2:32 pm DIALYSIS FLUID
   GRAM STAIN (Final [**2129-1-17**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):
   FUNGAL CULTURE (Preliminary):
   [**2129-1-15**] BLOOD CX: NGTD
   [**2129-1-15**] MRSA SCREEN: PENDING
   [**2129-1-16**] PERTONEAL DIALYSATE: NGTD
   [**2129-1-17**] BLOOD CX: NGTD
   [**2129-1-18**] BLOOD CX: NGTD
   [**2129-1-17**] legionella ab: pending
   Assessment and Plan
   56 yo female with ESRD on PD who presents with RML pneumonia
   # Hypotension:  Septic phyisiology is presumed secondary to RML
   pneumonia vs. recurrent C. diff infection.
   - Continue broad-spectrum antibiotics with vancomycin (day #4), Zosyn
   (day#4), Levofloxacin (day#2) for HAP
   - Continue PO Vanc as empiric coverage for presumed recurrent C diff
   - Vancomycin to be dosed to goal trough 15-20
   - d/c IV metronidazole
   - IVF challenge in effort to wean pressors
   - wean Levophed as tolerated
   - f/u blood, sputum, urine, and peritoneal fluid cultures
    -f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 45**] stim test to r/o adrenal insufficiency
   # Respiratory failure:  Presumed secondary to RML pneumonia.
   - f/u endotracheal sputum gram stain and culture
   - CT chest to further characterize infiltrate
   - Continue broad-spectrum antibiotics with vancomycin (day #4), Zosyn
   (day#4), Levofloxacin (day#2) for HAP
   - Legionella ab pending
   - wean vent as tolerated
   # Recurrent C. diff colitis:  Recurrent infections since [**Month (only) 1088**]
   [**2127**].  Cdiff toxin negative this admission.
   - continue PO vancomycin as empiric therapy while patient is on
   broad-spectrum antibiotics
   # ESRD on PD:
   - Continue PD today, as per Renal recommendations, with plan for net
   negative fluid balance
   - Sevelamer, Cinacalcet, Lanthanum held while NPO
   # SVC Syndrome:  INR is currently supratherapeutic at 3.5
   - resume coumadin once INR trending down.
   # OSA: currently intubated, willl resume BiPap at night s/p extubation
   # FEN:
   - NPO for now, pending extubation
   - Replete K with PD
   # PPx:
   - Supratherapeutic INR as DVT prophylaxis.
   - Change PPI to lansoprazole
   # Access:
   - Femoral CVL placed [**1-15**], as IJ and subclavian CVL contraindicated by
   SVC syndrome.
   - A-line placed [**1-17**].
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-15**] 07:22 PM
   Arterial Line - [**2129-1-17**] 08:00 PM
   Prophylaxis:
   DVT: INR 3.5
   Stress ulcer:  Lansoprazole
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Comments:
   Code status: Full code
   Disposition:  Remain in ICU

2129-01-18 10:31:00 Physician Attending Progress Note
Chief Complaint: cdiff colitis, sepsis, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2129-1-17**] 07:03 PM
 ARTERIAL LINE - START [**2129-1-17**] 08:00 PM
   Worsening resp acidosis with evolving CXR and worsening mental status
   led to intubation last night.
   Had soft tissue edema (not involving vocal cords) noted during
   intubation last night. No difficulty passing ETT.
   Mild improvement in pressor requirements.
   Thick yellow ETT secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-17**] 06:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-1-17**] 08:00 AM
   Levofloxacin - [**2129-1-18**] 03:00 AM
   Piperacillin - [**2129-1-18**] 04:00 AM
   Metronidazole - [**2129-1-18**] 08:08 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-18**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 81 (73 - 106) bpm
   BP: 109/78(91) {84/60(-2) - 136/90(109)} mmHg
   RR: 0 (0 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.3 kg (admission): 82.7 kg
   CVP: 299 (15 - 308)mmHg
   Total In:
                                                                  1,599 mL
                                                                    714 mL
   PO:
   TF:
   IVF:
                                                                  1,409 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                 -1,600 mL
                                                                 -2,000 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,199 mL
                                                                  2,714 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.32/38/122/20/-5
   Ve: 6.9 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: Overweight / Obese, responds well to verbal stimuli
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, thick cord like neck veins
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all poor but present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly), reduced at R base
   Abdominal: Soft, Non-tender, diminished BS
   Extremities: Right: 2+, Left: 2+, 2+ UE edema R>L
   Skin:  Warm
   Labs / Radiology
   9.3 g/dL
   407 K/uL
   108 mg/dL
   10.7 mg/dL
   20 mEq/L
   3.3 mEq/L
   53 mg/dL
   101 mEq/L
   134 mEq/L
   29.3 %
   12.2 K/uL
        [image002.jpg]
                             [**2129-1-15**]  09:44 PM
                             [**2129-1-16**]  04:57 AM
                             [**2129-1-17**]  03:11 AM
                             [**2129-1-17**]  05:27 PM
                             [**2129-1-17**]  05:46 PM
                             [**2129-1-17**]  06:08 PM
                             [**2129-1-17**]  08:55 PM
                             [**2129-1-18**]  02:42 AM
                             [**2129-1-18**]  03:04 AM
   WBC
   19.3
   17.6
   19.4
   12.2
   Hct
   34.5
   33.3
   32.6
   29.3
   Plt
   421
   432
   438
   407
   Cr
   11.4
   11.3
   10.7
   TropT
   0.12
   TCO2
   20
   21
   21
   20
   20
   Glucose
   93
   85
   137
   117
   108
   Other labs: PT / PTT / INR:33.4/46.0/3.5, CK / CKMB /
   Troponin-T:746/18/0.12, ALT / AST:[**6-10**], Alk Phos / T Bili:168/0.2,
   Differential-Neuts:87.7 %, Lymph:6.8 %, Mono:4.4 %, Eos:0.6 %, Lactic
   Acid:1.3 mmol/L, LDH:388 IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:6.2
   mg/dL
   Fluid analysis / Other labs: Immunoglobs: wnl
   am cortisol: 12.3
   stim: pend
   Vanc: 30.8
   Imaging: CXR: evolving RLL infiltrate, stable wide mediastinum
   reviewed, final report pending. Bibasilar infiltrates R>L, minimal
   effusions
   Microbiology: PD fluid: 3+ polys, no orgms
   Legionella Ab: pend
   Blood cxs: ngtd
   Spu cx: pend
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O OBSTRUCTIVE SLEEP APNEA (OSA)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   56 [**Last Name (un) 5343**] admitted with ESRD on PD, colitis, recurrent cdiff colitis,
   sepsis improving, with evolving RLL pneumonia. PD fluid with PMNs but
   cxs neg. SVC syndrome on anticoagulation. Intubated [**1-17**] for
   hypercapneic resp failure with altered MS.
   Acute respiratory failure: Intubated on minimal settings. Needs airway
   secretion improvement prior to extubation and anesthesia present when
   extubated. Will need to wean sedation and do SBT in AM.
   ID: F/u sputum and other cxs. Continue Vanc, zosyn, levoflox, po vanc
   and iv flagyl for RLL pneumonia, ?peritonitis, recurrent cdiff colitis.
   Repeat cdiff pend. [**Month (only) 60**] d/c iv flagyl. Continue po vanco. Maintain on
   precautions.
   Shock: likely sepsis on pressors, renal wants to run her negative. Will
   check for fluid responsiveness prior to doing that.
   Altered mental status: Check TSH
   ESRD on PD
   OSA: NIPPV 17/14 after extubation
   Anticoagulation on coumadin: INR 3.5
   Anemia: chronic, slow, follow
   Rest per resident note
   ICU Care
   Nutrition: none
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-15**] 07:22 PM
   Arterial Line - [**2129-1-17**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: HCP
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2129-01-19 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Sevelamer, Lanthanum, and Cinacalcet held while NPO
   - discontinued IV flagyl
   - Started Calcitriol 0.25 mcg daily
   - PD modified to goal net negative
   - [**Last Name (un) **] stim 12 -> 22
   - CT chest done
   - weaned off Levophed
   - Changed to PS [**4-1**] at 3 AM
   - awake and following commands
   - subjectively noticed increased facial and tongue edema
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-17**] 06:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-1-17**] 08:00 AM
   Metronidazole - [**2129-1-18**] 08:08 AM
   Levofloxacin - [**2129-1-19**] 03:00 AM
   Piperacillin - [**2129-1-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-19**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.6
C (96.1
   HR: 94 (65 - 94) bpm
   BP: 79/62(69) {79/57(66) - 114/79(95)} mmHg
   RR: 6 (0 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.3 kg (admission): 82.7 kg
    CVP: 24 (15 - 301)mmHg
   Total In:
                                                                  1,858 mL
                                                                    521 mL
   PO:
   TF:
   IVF:
                                                                  1,588 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                 -2,400 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,558 mL
                                                                  2,921 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 1,035 (102 - 1,035) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 12
   PIP: 13 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.33/40/118/20/-4
   Ve: 6.9 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: large protruding tongue, increased neck
   girth, facial edema
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   366 K/uL
   9.9 g/dL
   69 mg/dL
   10.1 mg/dL
   20 mEq/L
   3.5 mEq/L
   52 mg/dL
   100 mEq/L
   134 mEq/L
   30.3 %
   10.1 K/uL
        [image002.jpg]
                             [**2129-1-16**]  04:57 AM
                             [**2129-1-17**]  03:11 AM
                             [**2129-1-17**]  05:27 PM
                             [**2129-1-17**]  05:46 PM
                             [**2129-1-17**]  06:08 PM
                             [**2129-1-17**]  08:55 PM
                             [**2129-1-18**]  02:42 AM
                             [**2129-1-18**]  03:04 AM
                             [**2129-1-19**]  04:06 AM
                             [**2129-1-19**]  04:32 AM
   WBC
   17.6
   19.4
   12.2
   10.1
   Hct
   33.3
   32.6
   29.3
   30.3
   Plt
   [**Telephone/Fax (3) 8200**]66
   Cr
   11.4
   11.3
   10.7
   10.1
   TCO2
   20
   21
   21
   20
   20
   22
   Glucose
   85
   137
   117
   108
   69
   Other labs: PT / PTT / INR:40.0/50.0/4.3, CK / CKMB /
   Troponin-T:746/18/0.12, ALT / AST:[**6-10**], Alk Phos / T Bili:168/0.2,
   Differential-Neuts:87.7 %, Lymph:6.8 %, Mono:4.4 %, Eos:0.6 %, Lactic
   Acid:1.3 mmol/L, LDH:388 IU/L, Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:5.8
   mg/dL
   Fluid analysis / Other labs: [**1-16**] Peritoneal fluid: NEGATIVE FOR
   MALIGNANT CELLS.
   Imaging: CT chest [**1-18**]:
   Presence of bibasilar consolidations, right greater than left. Small
   bilateral pleural effusions; effusion is more likely than empyema due
   to
   convex shape of the fluid. NG tube and endotracheal tube are in place.
   Cardiomegaly. Great vessels seem unremarkable. Limited visualization of
   abdominal organs seems unremarkable. Degenerative changes in spine. No
   worrisome bone lesions.
   IMPRESSION:
   1. Small bilateral bibasilar consolidation, right greater than left.
   2. Small bilateral pleural effusions.
   3. Cardiomegaly.
   Microbiology: [**2129-1-18**] SPUTUM:
   GRAM STAIN (Final [**2129-1-18**]):
   >25 PMNs and <10 epithelial cells/100X field.  NO MICROORGANISMS SEEN.
    RESPIRATORY CULTURE (Preliminary): NGTD
    LEGIONELLA CULTURE: negative
   Assessment and Plan
   56 yo female with ESRD on PD who presents with RML pneumonia
   # Hypotension:  Septic phyisiology is presumed secondary to RML
   pneumonia vs. recurrent C. diff infection.
   - Continue broad-spectrum antibiotics with vancomycin (day #5), Zosyn
   (day#5), Levofloxacin (day#3) for HAP
   - Continue PO Vanc as empiric coverage for presumed recurrent C diff
   - Vancomycin to be dosed to goal trough 15-20
   - wean Levophed to goal MAP > 65
   - f/u blood, sputum, urine, and peritoneal fluid cultures
    - no adrenal insufficiency by [**Last Name (un) 45**] stim
   # Respiratory failure:  Presumed secondary to pneumonia.  CT chest
   revealed bilateral infiltrates.
   - Currently tolerating [**3-29**] but with no cuff leak.  Will give Decadron
   to reduced risk of post-extubation stridor given concern for laryngeal
   edema.
   - f/u endotracheal sputum cx
   - Continue broad-spectrum antibiotics with vancomycin (day #5), Zosyn
   (day#5), Levofloxacin (day#3) for HAP
   - Legionella ab negative
   - wean vent as tolerated
   # Recurrent C. diff colitis:  Recurrent infections since [**Month (only) 1088**]
   [**2127**].  Cdiff toxin negative this admission.
   - continue PO vancomycin as empiric therapy while patient is on
   broad-spectrum antibiotics
   # ESRD on PD:
   - Continue PD today, as per Renal recommendations, with plan for net
   negative fluid balance
   - Sevelamer, Cinacalcet, Lanthanum held while NPO
   # SVC Syndrome:  INR is currently supratherapeutic at >4.  Presume
   worsening facial edema is secondary to volume overload and intubation.
   - resume coumadin once INR trending down.
   # OSA: currently intubated, willl resume BiPap at night s/p extubation
   # FEN:
   - NPO for now, pending extubation
   - Replete K with PD
   # PPx:
   - Supratherapeutic INR as DVT prophylaxis.
   - Change PPI to lansoprazole
   # Access:
   - Femoral CVL placed [**1-15**], as IJ and subclavian CVL contraindicated by
   SVC syndrome.
   - A-line placed [**1-17**].
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-15**] 07:22 PM
   Arterial Line - [**2129-1-17**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2129-01-20 08:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient does not have a cuff leak, received decadron 5 mg q6h in
   order to prepare for extubation.
   - albuimin 25 gram were given for SBP consistently in 70s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-18**] 08:08 AM
   Levofloxacin - [**2129-1-19**] 03:00 AM
   Piperacillin - [**2129-1-19**] 12:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-1-19**] 09:11 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2129-1-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-20**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 79 (67 - 97) bpm
   BP: 89/61(72) {69/54(59) - 108/77(90)} mmHg
   RR: 7 (5 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 82.7 kg
    CVP: 26 (17 - 333)mmHg
   Total In:
                                                                  1,160 mL
                                                                    201 mL
   PO:
   TF:
   IVF:
                                                                    780 mL
                                                                    161 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                    300 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    860 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 904 (605 - 1,036) mL
   PS : 5 cmH2O
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 13
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.31/41/94.[**Numeric Identifier 128**]/19/-5
   Ve: 5.8 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   384 K/uL
   10.2 g/dL
   133 mg/dL
   9.6 mg/dL
   19 mEq/L
   3.9 mEq/L
   48 mg/dL
   99 mEq/L
   135 mEq/L
   32.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2129-1-17**]  05:27 PM
                             [**2129-1-17**]  05:46 PM
                             [**2129-1-17**]  06:08 PM
                             [**2129-1-17**]  08:55 PM
                             [**2129-1-18**]  02:42 AM
                             [**2129-1-18**]  03:04 AM
                             [**2129-1-19**]  04:06 AM
                             [**2129-1-19**]  04:32 AM
                             [**2129-1-19**]  08:34 AM
                             [**2129-1-20**]  03:00 AM
   WBC
   12.2
   10.1
   8.6
   Hct
   29.3
   30.3
   32.7
   Plt
   [**Telephone/Fax (3) 8226**]
   Cr
   10.7
   10.1
   9.6
   TCO2
   20
   21
   21
   20
   20
   22
   22
   Glucose
   117
   108
   69
   133
   Other labs: PT / PTT / INR:45.4/51.4/5.1, CK / CKMB /
   Troponin-T:746/18/0.12, ALT / AST:[**6-10**], Alk Phos / T Bili:168/0.2,
   Differential-Neuts:87.7 %, Lymph:6.8 %, Mono:4.4 %, Eos:0.6 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.1 g/dL, LDH:388 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   56 yo female with ESRD on PD who presents with RML pneumonia
   # Hypotension:  Septic phyisiology is presumed secondary to RML
   pneumonia vs. recurrent C. diff infection.
   - Continue broad-spectrum antibiotics with vancomycin (day #6), Zosyn
   (day#6), Levofloxacin (day#4) for HAP
   - Continue PO Vanc as empiric coverage for presumed recurrent C diff
   - Vancomycin to be dosed to goal trough 15-20
   - wean Levophed to goal MAP > 60
   - f/u blood, sputum, urine, and peritoneal fluid cultures
    - no adrenal insufficiency by [**Last Name (un) 45**] stim
   # Respiratory failure:  Presumed secondary to pneumonia.  CT chest
   revealed bilateral infiltrates.
   - Currently tolerating [**3-29**] but with no cuff leak.  Will give Decadron
   to reduced risk of post-extubation stridor given concern for laryngeal
   edema.   Will attempt extubation if there is some cuff leak with
   anesthesia at bedside.
   - f/u endotracheal sputum cx
   - Continue broad-spectrum antibiotics with vancomycin (day #5), Zosyn
   (day#5), Levofloxacin (day#3) for HAP
   - Legionella ab negative
   - wean vent as tolerated
   # Recurrent C. diff colitis:  Recurrent infections since [**Month (only) 1088**]
   [**2127**].  Cdiff toxin negative this admission.
   - continue PO vancomycin as empiric therapy while patient is on
   broad-spectrum antibiotics
   # ESRD on PD:
   - Continue PD today, as per Renal recommendations, with plan for net
   negative fluid balance if possible
   - Sevelamer, Cinacalcet, Lanthanum held while NPO
   # SVC Syndrome:  INR is currently supratherapeutic at >5.
   - resume coumadin once INR improves.
   # OSA: currently intubated, willl resume BiPap at night s/p extubation
   # Elevated INR: Was on coumadin, now most likely in the setting of poor
   nutrition and abx (esp levo).
   - TF post extubation
   # FEN:
   - NPO for now for possible extubation, if unable to extubate today,
   will need to start TF
   - Replete K with PD
   # PPx:
   - Supratherapeutic INR as DVT prophylaxis.
   - Change PPI to lansoprazole
   # Access:
   - Femoral CVL placed [**1-15**], as IJ and subclavian CVL contraindicated by
   SVC syndrome.
   - A-line placed [**1-17**].
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-15**] 07:22 PM
   Arterial Line - [**2129-1-17**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   # abdominal pain today and constipation in the last two days.  Will
   obtain KUB given c diff history prior to starting a bowel regimen.
   ------ Protected Section Addendum Entered By:[**Name (NI) 8227**] [**Name8 (MD) 6796**], MD
   on:[**2129-1-20**] 12:25 ------

2129-01-21 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated
   - KUB ok, bowel regimen initiated
   - levophed weaned off in early AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-18**] 08:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-1-19**] 09:11 PM
   Piperacillin - [**2129-1-21**] 04:00 AM
   Levofloxacin - [**2129-1-21**] 04:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-21**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 82 (70 - 93) bpm
   BP: 84/61(70) {69/47(55) - 105/72(84)} mmHg
   RR: 8 (0 - 21) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 82.7 kg
             Total In:
                                                                    700 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                    555 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,900 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 750 (600 - 840) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 21%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.33/42/103/18/-3
   Ve: 7.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   486 K/uL
   10.5 g/dL
   162 mg/dL
   9.2 mg/dL
   18 mEq/L
   3.5 mEq/L
   45 mg/dL
   98 mEq/L
   133 mEq/L
   32.9 %
   12.4 K/uL
        [image002.jpg]
                             [**2129-1-17**]  06:08 PM
                             [**2129-1-17**]  08:55 PM
                             [**2129-1-18**]  02:42 AM
                             [**2129-1-18**]  03:04 AM
                             [**2129-1-19**]  04:06 AM
                             [**2129-1-19**]  04:32 AM
                             [**2129-1-19**]  08:34 AM
                             [**2129-1-20**]  03:00 AM
                             [**2129-1-20**]  10:03 AM
                             [**2129-1-21**]  03:47 AM
   WBC
   12.2
   10.1
   8.6
   12.4
   Hct
   29.3
   30.3
   32.7
   32.9
   Plt
   [**Telephone/Fax (3) 8246**]86
   Cr
   10.7
   10.1
   9.6
   9.2
   TCO2
   21
   20
   20
   22
   22
   23
   Glucose
   108
   69
   133
   162
   Other labs: PT / PTT / INR:52.6/51.4/6.1, CK / CKMB /
   Troponin-T:746/18/0.12, ALT / AST:[**6-10**], Alk Phos / T Bili:168/0.2,
   Differential-Neuts:87.7 %, Lymph:6.8 %, Mono:4.4 %, Eos:0.6 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.1 g/dL, LDH:388 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   56 yo female with ESRD on PD who presents with RML pneumonia
   # Hypotension:  Septic phyisiology is presumed secondary to RML
   pneumonia vs. recurrent C. diff infection.
   - Continue broad-spectrum antibiotics with vancomycin (day #6), Zosyn
   (day#6), Levofloxacin (day#4) for HAP
   - Continue PO Vanc as empiric coverage for presumed recurrent C diff
   - Vancomycin to be dosed to goal trough 15-20
   - wean Levophed to goal MAP > 60
   - f/u blood, sputum, urine, and peritoneal fluid cultures
    - no adrenal insufficiency by [**Last Name (un) 45**] stim
   # Respiratory failure:  Presumed secondary to pneumonia.  CT chest
   revealed bilateral infiltrates.
   - Currently tolerating [**3-29**] but with no cuff leak.  Will give Decadron
   to reduced risk of post-extubation stridor given concern for laryngeal
   edema.   Will attempt extubation if there is some cuff leak with
   anesthesia at bedside.
   - f/u endotracheal sputum cx
   - Continue broad-spectrum antibiotics with vancomycin (day #5), Zosyn
   (day#5), Levofloxacin (day#3) for HAP
   - Legionella ab negative
   - wean vent as tolerated
   # Recurrent C. diff colitis:  Recurrent infections since [**Month (only) 1088**]
   [**2127**].  Cdiff toxin negative this admission.
   - continue PO vancomycin as empiric therapy while patient is on
   broad-spectrum antibiotics
   # ESRD on PD:
   - Continue PD today, as per Renal recommendations, with plan for net
   negative fluid balance if possible
   - Sevelamer, Cinacalcet, Lanthanum held while NPO
   # SVC Syndrome:  INR is currently supratherapeutic at >5.
   - resume coumadin once INR improves.
   # OSA: currently intubated, willl resume BiPap at night s/p extubation
   # Elevated INR: Was on coumadin, now most likely in the setting of poor
   nutrition and abx (esp levo).
   - TF post extubation
   # FEN:
   - NPO for now for possible extubation, if unable to extubate today,
   will need to start TF
   - Replete K with PD
   # PPx:
   - Supratherapeutic INR as DVT prophylaxis.
   - Change PPI to lansoprazole
   # Access:
   - Femoral CVL placed [**1-15**], as IJ and subclavian CVL contraindicated by
   SVC syndrome.
   - A-line placed [**1-17**].
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-15**] 07:22 PM
   Arterial Line - [**2129-1-17**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: